US08614239B2
Preparation of Intermediate 8-Cyclopropanesulfonyl-4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-22a)
Intermediate I-22a was prepared from 4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-18a: 80 mg, 0.178 mmol), cyclopropanesulfonyl chloride (37.75 mg, 0.269 mmol), TEA (54.46 mg, 0.534 mmol) and DMAP (10 mg) using procedures analogous to those described above for Intermediate I-19a to afford 55 mg of the product (56.3% yield). H1NMR (CDCl3, 300 MHz): δ 7.72-7.64 (m, 2H), 7.30-7.22 (m, 1H), 3.34-3.24 (m, 1H), 2.74 (s, 3H), 1.74-1.60 (m, 2H), 1.34-1.20 (m, 2H). LCMS: 81.9%; 549.9 (M+1).

reactant | 4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 0.178 mmol, 80 mg | FC1=C(C2=C(C3=C1N=C(O3)C)NC(N2C2=C(C=C(C=C2)I)F)=O)F | C15H7F3IN3O2
reactant | cyclopropanesulfonyl chloride | 0.269 mmol, 37.75 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 8-Cyclopropanesulfonyl-4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-2-methyl-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 55 mg, 56.3% yield | C1(CC1)S(=O)(=O)N1C(N(C2=C1C1=C(N=C(O1)C)C(=C2F)F)C2=C(C=C(C=C2)I)F)=O | C18H11F3IN3O4S
